US09314023B2
A similar reaction to Reference Preparation example 33 using 2,5-dimethyl-4-methoxy-phenylboronic acid instead of 4-methoxy-3-methyl-phenylboronic acid, and using 3-methyl-1H-pyrazole instead of 3,4,5-trimethyl-1H-pyrazole gave 1-(2,5-dimethyl-4-methoxy-phenyl)-3-methyl-1H-pyrazole.

reactant | 2,5-dimethyl-4-methoxy-phenylboronic acid | CC1=C(C=C(C(=C1)OC)C)B(O)O | C9H13BO3
reactant | 3-methyl-1H-pyrazole | CC1=NNC=C1 | C4H6N2
product | 1-(2,5-dimethyl-4-methoxy-phenyl)-3-methyl-1H-pyrazole | CC1=C(C=C(C(=C1)OC)C)N1N=C(C=C1)C | C13H16N2O
